* PEX produced on Sun Aug 23 03:28:49 PM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from strongarm_comparator.ext - technology: gf180mcuD

.option scale=5n

.subckt strongarm_comparator OUTN OUTP CLK INN INP VSS VDD
X0 a_n2018_4046# CLK VSS VSS nfet_03v3 ad=0.168u pd=3.04m as=0.168u ps=3.04m w=1400 l=100
X1 OUTN OUTP VDD VDD pfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=100
X2 a_n1958_6864# INN a_n2018_4046# VSS nfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=140
X3 OUTP OUTN a_n1958_6864# VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X4 OUTN OUTP a_n3030_6864# VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X5 OUTN CLK VDD VDD pfet_03v3 ad=38.4n pd=0.88m as=38.4n ps=0.88m w=320 l=100
X6 OUTP CLK VDD VDD pfet_03v3 ad=38.4n pd=0.88m as=38.4n ps=0.88m w=320 l=100
X7 a_n1958_6864# CLK VDD VDD pfet_03v3 ad=19.2n pd=0.56m as=19.2n ps=0.56m w=160 l=100
X8 a_n3030_6864# CLK VDD VDD pfet_03v3 ad=19.2n pd=0.56m as=19.2n ps=0.56m w=160 l=100
X9 a_n3030_6864# INP a_n2018_4046# VSS nfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=140
X10 OUTP OUTN VDD VDD pfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=100
C0 a_n1958_6864# OUTN 0.35305f
C1 CLK OUTP 0.05486f
C2 a_n3030_6864# OUTP 0.12284f
C3 a_n1958_6864# VDD 1.5261f
C4 OUTN OUTP 1.79007f
C5 a_n3030_6864# CLK 0.38168f
C6 CLK OUTN 0.0643f
C7 a_n2018_4046# INN 0.11388f
C8 a_n3030_6864# OUTN 0.59627f
C9 VDD OUTP 4.89555f
C10 a_n3030_6864# INP 0.08031f
C11 a_n2018_4046# a_n1958_6864# 0.75174f
C12 a_n1958_6864# INN 0.07888f
C13 VDD CLK 3.46014f
C14 a_n3030_6864# VDD 1.75828f
C15 VDD OUTN 5.63877f
C16 a_n2018_4046# CLK 0.41333f
C17 CLK INN 0.01308f
C18 a_n1958_6864# OUTP 0.8221f
C19 a_n2018_4046# a_n3030_6864# 0.9542f
C20 a_n1958_6864# CLK 0.47451f
C21 a_n2018_4046# INP 0.13204f
C22 a_n1958_6864# a_n3030_6864# 0.28947f
C23 INP VSS 0.52699f
C24 INN VSS 0.53799f
C25 OUTP VSS 2.75822f
C26 OUTN VSS 3.12071f
C27 CLK VSS 3.85045f
C28 VDD VSS 31.8677f
C29 a_n2018_4046# VSS 5.56201f ; **FLOATING
C30 a_n1958_6864# VSS 3.41431f ; **FLOATING
C31 a_n3030_6864# VSS 2.77755f ; **FLOATING
.ends
