* PEX produced on Sun Aug 23 03:39:33 PM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from strongarm_comparator.ext - technology: gf180mcuD

.option scale=5n

.subckt strongarm_comparator OUTN OUTP CLK INN INP VSS VDD
X0 a_n1958_7016# INN a_n2018_4048# VSS nfet_03v3 ad=90n pd=1.74m as=90n ps=1.74m w=750 l=140
X1 OUTN CLK VDD VDD pfet_03v3 ad=38.4n pd=0.88m as=38.4n ps=0.88m w=320 l=100
X2 OUTP CLK VDD VDD pfet_03v3 ad=38.4n pd=0.88m as=38.4n ps=0.88m w=320 l=100
X3 a_n2018_4048# CLK VSS VSS nfet_03v3 ad=0.168u pd=3.04m as=0.168u ps=3.04m w=1400 l=100
X4 a_n1958_7016# CLK VDD VDD pfet_03v3 ad=19.2n pd=0.56m as=19.2n ps=0.56m w=160 l=100
X5 a_n3030_7016# CLK VDD VDD pfet_03v3 ad=19.2n pd=0.56m as=19.2n ps=0.56m w=160 l=100
X6 OUTP OUTN a_n1958_7016# VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X7 OUTN OUTP a_n3030_7016# VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X8 a_n3030_7016# INP a_n2018_4048# VSS nfet_03v3 ad=90n pd=1.74m as=90n ps=1.74m w=750 l=140
X9 OUTP OUTN VDD VDD pfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=100
X10 OUTN OUTP VDD VDD pfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=100
C0 a_n2018_4048# INN 0.13122f
C1 INP CLK 0.01896f
C2 a_n3030_7016# OUTN 0.57039f
C3 VDD OUTP 4.87926f
C4 a_n3030_7016# INP 0.11958f
C5 a_n2018_4048# a_n1958_7016# 1.0746f
C6 a_n1958_7016# INN 0.11698f
C7 VDD CLK 3.96106f
C8 a_n3030_7016# VDD 1.48867f
C9 VDD OUTN 4.92938f
C10 a_n2018_4048# CLK 0.54364f
C11 a_n1958_7016# OUTP 0.67672f
C12 a_n2018_4048# a_n3030_7016# 1.0231f
C13 a_n1958_7016# CLK 0.29174f
C14 a_n2018_4048# INP 0.12786f
C15 a_n1958_7016# a_n3030_7016# 0.63439f
C16 a_n1958_7016# OUTN 0.25721f
C17 CLK OUTP 0.05726f
C18 a_n3030_7016# OUTP 0.18845f
C19 a_n1958_7016# VDD 1.83162f
C20 OUTN OUTP 1.19905f
C21 a_n3030_7016# CLK 0.32924f
C22 CLK OUTN 0.06871f
C23 INP VSS 0.53043f
C24 INN VSS 0.54865f
C25 OUTP VSS 2.98397f
C26 OUTN VSS 3.30127f
C27 CLK VSS 3.17754f
C28 VDD VSS 31.3491f
C29 a_n2018_4048# VSS 5.47157f ; **FLOATING
C30 a_n1958_7016# VSS 3.61368f ; **FLOATING
C31 a_n3030_7016# VSS 3.00094f ; **FLOATING
.ends
