* PEX produced on Sun Aug 23 03:44:04 PM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from strongarm_comparator.ext - technology: gf180mcuD

.option scale=5n

.subckt strongarm_comparator OUTN OUTP CLK INN INP VSS VDD
X0 a_n2018_4046# CLK VSS VSS nfet_03v3 ad=0.168u pd=3.04m as=0.168u ps=3.04m w=1400 l=100
X1 OUTN OUTP VDD VDD pfet_03v3 ad=93.6n pd=1.8m as=93.6n ps=1.8m w=780 l=100
X2 a_n1958_6864# INN a_n2018_4046# VSS nfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=140
X3 OUTP OUTN a_n1958_6864# VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X4 OUTN OUTP a_n3030_6864# VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X5 OUTN CLK VDD VDD pfet_03v3 ad=38.4n pd=0.88m as=38.4n ps=0.88m w=320 l=100
X6 OUTP CLK VDD VDD pfet_03v3 ad=38.4n pd=0.88m as=38.4n ps=0.88m w=320 l=100
X7 a_n1958_6864# CLK VDD VDD pfet_03v3 ad=19.2n pd=0.56m as=19.2n ps=0.56m w=160 l=100
X8 a_n3030_6864# CLK VDD VDD pfet_03v3 ad=19.2n pd=0.56m as=19.2n ps=0.56m w=160 l=100
X9 a_n3030_6864# INP a_n2018_4046# VSS nfet_03v3 ad=72n pd=1.44m as=72n ps=1.44m w=600 l=140
X10 OUTP OUTN VDD VDD pfet_03v3 ad=93.6n pd=1.8m as=93.6n ps=1.8m w=780 l=100
C0 a_n2018_4046# OUTP 0.02249f
C1 a_n2018_4046# CLK 0.82596f
C2 a_n1958_6864# OUTP 0.65717f
C3 a_n2018_4046# a_n3030_6864# 1.24586f
C4 a_n2018_4046# OUTN 0.04963f
C5 a_n1958_6864# CLK 0.18346f
C6 a_n2018_4046# INP 0.1062f
C7 a_n1958_6864# a_n3030_6864# 1.0287f
C8 a_n1958_6864# OUTN 0.28484f
C9 CLK OUTP 0.05574f
C10 a_n3030_6864# OUTP 0.17206f
C11 a_n1958_6864# VDD 1.8625f
C12 OUTN OUTP 1.3698f
C13 a_n3030_6864# CLK 0.53993f
C14 CLK OUTN 0.06104f
C15 a_n2018_4046# INN 0.10933f
C16 a_n3030_6864# OUTN 0.5781f
C17 INP CLK 0.01666f
C18 VDD OUTP 4.7789f
C19 a_n3030_6864# INP 0.09637f
C20 a_n2018_4046# a_n1958_6864# 0.86999f
C21 a_n1958_6864# INN 0.08213f
C22 VDD CLK 3.76018f
C23 a_n3030_6864# VDD 1.96748f
C24 VDD OUTN 4.91563f
C25 INP VSS 0.5311f
C26 INN VSS 0.54801f
C27 OUTP VSS 3.05655f
C28 OUTN VSS 3.35306f
C29 CLK VSS 2.96165f
C30 VDD VSS 32.7417f
C31 a_n2018_4046# VSS 5.87205f ; **FLOATING
C32 a_n1958_6864# VSS 3.63857f ; **FLOATING
C33 a_n3030_6864# VSS 2.33002f ; **FLOATING
.ends
